US05837711
To a solution of 5-nitrosalicylaldehyde (1.00 g, 6.0 mmol) in DMF (20 ml) was added NaH (246 mg) and methyl iodide (2.56 g, 18 mmol) at 0° C. The mixture was stirred for 8.5 hr at 60° C. After the reaction mixture was extracted with ether, the extract was washed with aqueous NaHCO3, brine and 5%-HCl/aq.NaCl, dried over MgSO4 and concentrated in vacuo to afford 2-methoxy-5-nitrobenzaldehyde (0.95 g, 87.8%) as a yellow needle.

reactant | 5-nitrosalicylaldehyde | 6.0 mmol, 1.00 g | [N+](=O)([O-])C1=CC=C(C(C=O)=C1)O | C7H5NO4
reactant | NaH | 246 mg | [H-].[Na+]
reactant | methyl iodide | 18 mmol, 2.56 g | CI | CH3I
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-methoxy-5-nitrobenzaldehyde | 0.95 g, 87.8% | COC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
